US04442126
(e) 2,7-Diamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene dihydrochloride
2.7 ml of boron tribromide are added to a solution of 23 g of 2-acetamido-7-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene in methylene chloride at -60° C. The mixture is left to return to ambient temperature, cooled to -60° C. and neutralised with methanol. After evaporation to dryness, 12 N hydrochloric acid is added and the mixture is heated under reflux for 48 hours. It is then left to cool and the crystals formed are filtered off, washed with acetone and then with diethyl ether and dried. The product collected melts above 300° C.

reactant | boron tribromide | 2.7 ml | B(Br)(Br)Br | BBr3
reactant | 2-acetamido-7-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene | 23 g | C(C)(=O)NC1CC2=CC(=C(C=C2CC1)OC)N | C13H18N2O2
reactant | methanol | CO | CH4O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,7-Diamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene dihydrochloride | Cl.Cl.NC1CC2=CC(=C(C=C2CC1)O)N | InChI=1S/C10H14N2O.2ClH/c11-8-2-1-6-5-10(13)9(12)4-7(6)3-8;;/h4-5,8,13H,1-3,11-12H2;2*1H
